US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(6-chloro-pyridin-3-yl)-amino]-N,N-diethyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, 5-amino-2-chloropyridine and 4-tert-butyl-benzenesulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | 5-amino-2-chloropyridine | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(6-chloro-pyridin-3-yl)-amino]-N,N-diethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CC)C=1C=NC(=CC1)Cl | C21H28ClN3O3S
